US07767650B2
b. Preparation of 4-Hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde
30 g (106 mmol) of 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-1-ol are dissolved in 500 mL of anhydrous THF. The medium is cooled to −78° C. and 156 mL (265 mmol) of tert-butyllithium are then added dropwise. After 45 minutes at this temperature, 12.3 mL (159 mmol) of dimethylformamide are added. The mixture is warmed to room temperature and then treated with 1N hydrochloric acid solution and extracted with ethyl acetate. The residue obtained is then purified by chromatography (eluent: 9/1 heptane/ethyl acetate). A white solid is obtained (m=16.5 g; yield=67%; m.p.=144° C.).

reactant | 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-1-ol | 106 mmol, 30 g | BrC=1C=C(C=2C(CCC(C2C1)(C)C)(C)C)O | C14H19BrO
reactant | tert-butyllithium | 265 mmol, 156 mL | C(C)(C)(C)[Li]
reactant | dimethylformamide | 159 mmol, 12.3 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | yield=67% | OC1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C=O | C15H20O2
